data/mechanism_extracts/ChemCommun/10.1039_D2CC03922B_sup_1.json
{"doi": "10.1039_D2CC03922B_sup_1", "journal": "ChemCommun", "is_review": false, "rxn_class_summary": "Electrochemical radical cyclization of 1,6-enynes with sulfonimides to construct benzofuran derivatives bearing aminomethyl groups", "mechanism_family": ["radical_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation of sulfonimide (or its anion) to generate a nitrogen-centered sulfonamidyl radical that adds to the enyne", "key_intermediates": [{"name": "sulfonamidyl N-centered radical (from PhSO2-NH-SO2Ph)", "smiles": "O=S(=O)(N[S](=O)(=O)c1ccccc1)c1ccccc1", "role": "reactive"}, {"name": "vinyl/alkenyl radical from N-radical addition to alkene of 1,6-enyne", "smiles": null, "role": "transient"}, {"name": "cyclized aryl/vinyl radical after intramolecular addition onto alkyne", "smiles": null, "role": "transient"}, {"name": "benzofuranyl cation (post oxidation/methanol trap precursor)", "smiles": null, "role": "transient"}], "electron_flow": "Anode oxidizes the sulfonimide anion (generated with nBu4NOAc base) to a N-centered radical, which adds to the terminal alkene of the 1,6-enyne; the resulting C-radical cyclizes onto the tethered alkyne, and the vinyl radical is further oxidized to a cation that is trapped by methanol to give the dimethyl ketal/benzofuran product.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Product 3a not detected (0% yield) under standard conditions with TEMPO added, consistent with a radical intermediate"}, {"name": "no-current control", "smiles": null, "purpose": "redox_probe", "observation": "Without electric current, product 3a was not formed (0% yield), confirming the electrochemical nature of the transformation"}], "evidence_types_used": ["intermediate_trap_TEMPO", "on/off_light_or_current"], "evidence_strength": "medium", "notes": "Page also shows downstream synthetic applications: Ti(OiPr)4/Mg/Me3SiCl mediated N-S bond cleavage of 3a to monosulfonamide 5a (78%), and H2SO4-promoted hydrolysis/rearrangement of ketal 4a to ketone 6a (70%). These are derivatization steps, not part of the catalytic cycle."}
